US04182759
Iodoacetone (56.5 g., 0.31 mole) was added dropwise over a 20 minute period to 41.4 g (0.31 mole) of triethyl phosphite at 0° C. The mixture was allowed to warm to room temperature and held there for 90 minutes. The crude product was distilled in vacuo and the fraction boiling at 76°-86° C. (0.3-0.35 mm) was collected, giving 12.2 g of diethyl acetonylphosphonate.

reactant | Iodoacetone | 0.31 mole, 56.5 g | ICC(C)=O | C3H5IO
reactant | triethyl phosphite | 0.31 mole, 41.4 g | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl acetonylphosphonate | 12.2 g | C(C(=O)C)P(OCC)(OCC)=O | C7H15O4P
